US04346088
(C) 4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-phenylimino-thiazolidin-4-ol hydrochloride
4 g (0.01 mole) of 4-(4-chloro-3-sulfamoylphenyl)-3-methyl-2-phenyliminothiazolidin-4-ol in 50 ml of acetone, ethyl acetate or ether are acidified with ethereal hydrogen chloride solution and, after stirring at room temperature for 1 to 3 hours, the crystals are filtered off. Melting point 179° C. (with decomposition).

reactant | 4-(4-chloro-3-sulfamoylphenyl)-3-methyl-2-phenyliminothiazolidin-4-ol | 0.01 mole, 4 g | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=CC=CC=C1)C)O)S(N)(=O)=O | C16H16ClN3O3S2
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-phenylimino-thiazolidin-4-ol hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=CC=CC=C1)C)O)S(N)(=O)=O | InChI=1S/C16H16ClN3O3S2.ClH/c1-20-15(19-12-5-3-2-4-6-12)24-10-16(20,21)11-7-8-13(17)14(9-11)25(18,22)23;/h2-9,21H,10H2,1H3,(H2,18,22,23);1H
